US08912208B2
B. (5-Bromo-pyridin-2-yl)-(6-trifluoromethyl-pyridin-3-yl)-amine
A mixture of 5-amino-2-(trifluoromethyl)pyridine (0.5 g, 3.0 mmol, 1.0 equiv) and 5-bromo-2-fluoropyridine (0.47 mL, 4.6 mmol, 1.5 equiv) in 2 mL 1-butanol was charged with 0.15 mL of 4.0 M HCl (in dioxane) and heated to 150° C. via microwave heating. After cooling to room temperature, the reaction mixture was partitioned between ethyl acetate and saturated bicarbonate, and the organic extracts were washed with brine and dried over sodium sulphate. Purification of the crude product by flash chromatography afforded the title compound: 1H NMR (400 MHz, CDCl3) δ 6.63 (br. s., 1 H) 6.67 (d, J=9.35 Hz, 1 H) 7.56 (d, J=8.59 Hz, 1 H) 7.62 (dd, J=8.84, 2.53 Hz, 1 H) 8.22-8.66 (m, 2 H) 8.57 (d, J=2.78 Hz, 1 H); (M+H)+ 320.0.

reactant | 5-amino-2-(trifluoromethyl)pyridine | 3.0 mmol, 0.5 g, 1.0 equiv | NC=1C=CC(=NC1)C(F)(F)F | C6H5F3N2
reactant | 5-bromo-2-fluoropyridine | 4.6 mmol, 0.47 mL, 1.5 equiv | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | HCl | 4.0 M, 0.15 mL | Cl | ClH
solvent | 1-butanol | 2 mL | C(CCC)O | C4H10O
product | (5-Bromo-pyridin-2-yl)-(6-trifluoromethyl-pyridin-3-yl)-amine | BrC=1C=CC(=NC1)NC=1C=NC(=CC1)C(F)(F)F | C11H7BrF3N3
